US04404214
0.68 g of 4-chloro-6-methyl-2-pyridinecarboxylic acid, 0.67 g of N,N'-carbonyldiimidazole and 0.37 g of 5-aminotetrazole are treated in the same manner as described in Example 2. The crude product thus obtained is recrystallized from a mixture of dimethylformamide and ethanol, whereby 0.65 g of N-(5-tetrazolyl)-4-chloro-6-methyl-2-pyridinecarboxamide is obtained.

reactant | 4-chloro-6-methyl-2-pyridinecarboxylic acid | 0.68 g | ClC1=CC(=NC(=C1)C)C(=O)O | C7H6ClNO2
reactant | 5-aminotetrazole | 0.37 g | NC1=NN=NN1 | CH3N5
product | N-(5-tetrazolyl)-4-chloro-6-methyl-2-pyridinecarboxamide | 0.65 g | N1N=NN=C1NC(=O)C1=NC(=CC(=C1)Cl)C | C8H7ClN6O
